US08232284B2
N,N-dimethylformamide (0.05 ml, 0.65 mmol) was added to a thionyl chloride solution (10 ml) of 5-chloro-6-hydroxynicotinic acid (1.0 g, 5.76 mmol), and stirred under a nitrogen atmosphere at 90° C. for 1 hour. The reaction solution was concentrated under reduced pressure, and with cooling with ice, N,N,N′-trimethylethane-1,2-diamine (2.32 ml, 17.3 mmol) was added to an N,N-dimethylformamide solution (10 ml) of the obtained residue, and stirred at room temperature for 3 minutes. Saturated saline water was added to the reaction solution, extracted with chloroform, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by amine-type silica gel column chromatography (Biotage NH, hexane:ethyl acetate=4:1 go 1:1) to obtain 5,6-dichloro-N-[2-(dimethylamino)ethyl]-N-methylnicotinamide (1.59 g, yield: 100%) as a colorless oil.

reactant | N,N-dimethylformamide | 0.65 mmol, 0.05 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-chloro-6-hydroxynicotinic acid | 5.76 mmol, 1.0 g | ClC=1C(=NC=C(C(=O)O)C1)O | C6H4ClNO3
reactant | N,N,N′-trimethylethane-1,2-diamine | 17.3 mmol, 2.32 ml | CN(CCNC)C | C5H14N2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5,6-dichloro-N-[2-(dimethylamino)ethyl]-N-methylnicotinamide | 1.59 g, yield: 100% | ClC=1C(=NC=C(C(=O)N(C)CCN(C)C)C1)Cl | C11H15Cl2N3O
